US04027029
An amount of 3.63 g (0.010 mole) of 6-(o-fluorophenyl)-8-chloro-4H-s-triazolo[1,5-a][1,4]benzodiazepine-2-carboxylic acid is refluxed with 60 ml of thionyl chloride for two hours. The clear yellow solution is concentrated at 40° in vacuo and, to effect the total removal of thionyl chloride, the residue dissolved in 50 ml of abs. toluene and again concentrated by evaporation to obtain as residue crude 6-(o-fluorophenyl)-8-chloro-4H-s-triazolo[1,5-a][1,4]benzodiazepine-2-carbonyl chloride. It can be optionally recrystallised from dioxane and has then a M.P. of 196°-198° (decomposition).

reactant | 6-(o-fluorophenyl)-8-chloro-4H-s-triazolo[1,5-a][1,4]benzodiazepine-2-carboxylic acid | 0.010 mole, 3.63 g | FC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)Cl)N=C(N2)C(=O)O | C17H10ClFN4O2
reactant | thionyl chloride | 60 ml | S(=O)(Cl)Cl | Cl2OS
product | 6-(o-fluorophenyl)-8-chloro-4H-s-triazolo[1,5-a][1,4]benzodiazepine-2-carbonyl chloride | FC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)Cl)N=C(N2)C(=O)Cl | C17H9Cl2FN4O
